

.model NMOS1 nmos (LEVEL=1 VTO=0.7 KP=100u GAMMA=0.4 LAMBDA=0.01)
.model NMOS2 nmos (LEVEL=1 VTO=0.6 KP=80u GAMMA=0.35 LAMBDA=0.01)

.model PMOS1 pmos (LEVEL=1 VTO=-0.7 KP=50u GAMMA=0.4 LAMBDA=0.01)
.model PMOS2 pmos (LEVEL=1 VTO=-0.65 KP=40u GAMMA=0.35 LAMBDA=0.01)

.subckt INV in out vdd gnd
    MP1 out in vdd vdd PMOS1
    MN1 out in gnd gnd NMOS1
.ends INV

.subckt BUF in out vdd gnd
    X1 in n1 vdd gnd INV
    X2 n1 out vdd gnd INV
.ends BUF

.subckt LPF in vss out 
    R1 in out 1k
    C1 out vss 10p
.ends LPF

.globals vdd vss
vd1 vdd 0 1.8
vd2 vss 0 0

VIN in 0 PULSE(0 1.8 0 1n 1n 10n 20n)
XBUF in out vdd gnd BUF

XLPF in vss out_lpf LPF

.options savecurrents
.save all
.tran 1ps 100ns
*.save V(in) V(out) V(vdd) V(*)
*.plot V(in) V(out) V(vdd) V(*)

.control
run
write sim.raw
.endc

.end
